US04863958
A solution of p-chlorobenzoyl chloride (3.5 gm; 20mmoles) in ethylene dichloride (10 mL) was added slowly to a cooled suspension of aluminium chloride (5.36 gm; 40mmoles) in ethylene dichloride (200 mL). After stirring for a period of 15 minutes, 3-methyl 4-hydroxy-5-propyl-7-chlorobenzofuran (1.5 gm; 7mmoles) in ethylenedichloride (10 mL) was added over a period of 2 minutes. The reaction mixture was stirred at room temperature for 5 hours. It was cooled with an ice-bath and ice was added slowly. When the vigorous reaction subsided, the organic layer was separated and the agueous phase was extracted with methylene chloride. The organic phases were combined, dried (Na2SO4), and concentrated in vacuo. The residue was chromatographed on silica gel. Elution with 15% ethylacetate in hexane yielded 2.63 gm (75%) of 2-(p-chlorobenzoyl)-methyl-4-(p-chlorobenzoyloxy)-5-propyl-7-chlorobenzofuran, mp. 177°-182° C.

reactant | p-chlorobenzoyl chloride | 20mmoles, 3.5 gm | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | aluminium chloride | 40mmoles, 5.36 gm | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 3-methyl 4-hydroxy-5-propyl-7-chlorobenzofuran | 7mmoles, 1.5 gm | CC1=COC2=C1C(=C(C=C2Cl)CCC)O | C12H13ClO2
solvent | ethylene dichloride | 10 mL | C(CCl)Cl | C2H4Cl2
solvent | ethylene dichloride | 200 mL | C(CCl)Cl | C2H4Cl2
solvent | ethylenedichloride | 10 mL | C(CCl)Cl | C2H4Cl2
product | 2-(p-chlorobenzoyl)-methyl-4-(p-chlorobenzoyloxy)-5-propyl-7-chlorobenzofuran | 2.63 gm, 75% | ClC1=CC=C(C(=O)C=2OC3=C(C2C)C(=C(C=C3Cl)CCC)OC(C3=CC=C(C=C3)Cl)=O)C=C1 | C26H19Cl3O4
